US05998433
a) Synthesis of 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)decan-1-one
To a solution of 0.160 g (1.000 mmol) of 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride, 0.19 g (1.1 mmol) of n-decanoic acid and 0.55 ml (4.0 mmol) of triethylamine in 30 ml of dichloromethane, 0.24 g (1.5 mmol) of diethyl cyanophosphonate was added dropwise under ice-cooling, followed by overnight stirring at room temperature. The reaction mixture was poured into water and extracted with dichloromethane 2 times. The combined organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel chromatography (hexane/ethyl acetate=10/1) to yield the desired product.

reactant | 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | 1.000 mmol, 0.160 g | Cl.O1C=CC2=C1CNCC2
reactant | n-decanoic acid | 1.1 mmol, 0.19 g | C(CCCCCCCCC)(=O)O | C10H20O2
reactant | triethylamine | 4.0 mmol, 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 1.5 mmol, 0.24 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)decan-1-one | O1C=CC2=C1CN(CC2)C(CCCCCCCCC)=O | C17H27NO2
